US04086347
A mixture of 28.6 g (0.15 mole) of 4-phenoxymethylpiperidine, 23.5 g (0.15 mole) of 1-bromo-3-chloropropane, 40.4 g (0.4 mole) of triethylamine and 150 ml of tetrahydrofuran is heated under reflux for 5 hours. After cooling, the reaction mixture is filtered, the filtrate is evaporated in a vacuum, the residue is extracted with diethyl ether and the extract is evaporated. There are obtained 33.6 g (84% of theory) of crude 3-(4-phenoxymethylpiperidino)-propyl chloride in the form of an oil which can be further used in this form. The pure compound is obtained by distillation and boils at 180° - 183° C/0.4 mm Hg.

reactant | 4-phenoxymethylpiperidine | 0.15 mole, 28.6 g | O(C1=CC=CC=C1)CC1CCNCC1 | C12H17NO
reactant | 1-bromo-3-chloropropane | 0.15 mole, 23.5 g | BrCCCCl | C3H6BrCl
reactant | triethylamine | 0.4 mole, 40.4 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 3-(4-phenoxymethylpiperidino)-propyl chloride | 33.6 g, 84% | O(C1=CC=CC=C1)CC1CCN(CC1)CCCCl | C15H22ClNO
